US09056859B2
A mixture of ethyl (4-methyl-6-nitropyridin-3-yl)acetate (1.65 g, 7.36 mmol) and palladium on carbon (10%, 1.57 g, 1.47 mmol) in Ethanol (10 mL) was evacuated and refilled with nitrogen (3×), then stirred under an atmosphere of hydrogen for 2 h. The reaction mixture was filtered through Celite® and concentrated in vacuo to provide ethyl (4-methyl-6-aminopyridin-3-yl)acetate which was used directly in the next reaction without further purification. LC-MS (IE, m/z): 195 [M+1]+.

reactant | ethyl (4-methyl-6-nitropyridin-3-yl)acetate | 7.36 mmol, 1.65 g | CC1=C(C=NC(=C1)[N+](=O)[O-])CC(=O)OCC | C10H12N2O4
catalyst | palladium on carbon | 1.47 mmol, 1.57 g | [Pd] | Pd
solvent | Ethanol | 10 mL | C(C)O | C2H6O
product | ethyl (4-methyl-6-aminopyridin-3-yl)acetate | CC1=C(C=NC(=C1)N)CC(=O)OCC | C10H14N2O2
